US06107297
i) 2-[(1,1-Dimethylethoxy)carbonyl]amino-N-[(1H)-tetrazol-5-yl]acetamide, pyrrolidinium salt
To a solution of N-(tert-butoxycarbonyl)glycine (2 g), 5-aminotetrazole monohydrate (1.4 g) and bromo-tris(pyrrolidino)-phosphonium hexafluorophosphate (7.52 g) in dimethylformamide (20 ml) was added N,N-diisopropylethylamine (4.4 g) followed by N,N-dimethyl-4-aminopyridine (1.4 g). After 16 hours the reaction mixture was diluted with ethyl acetate and washed with water and brine. The aqueous phase was adjusted to pH4 with tartaric acid and extracted repeatedly with ethyl acetate. The combined extract was dried (MgSO4) and evaporated. The residue was triturated with ethyl acetate and the solid collected by filtration. Yield 1.4 g.

reactant | N-(tert-butoxycarbonyl)glycine | 2 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 5-aminotetrazole monohydrate | 1.4 g | O.NC1=NN=NN1
reactant | bromo-tris(pyrrolidino)-phosphonium hexafluorophosphate | 7.52 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | N,N-diisopropylethylamine | 4.4 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | N,N-dimethyl-4-aminopyridine | 1.4 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(1,1-Dimethylethoxy)carbonyl]amino-N-[(1H)-tetrazol-5-yl]acetamide, pyrrolidinium salt | [NH2+]1CCCC1.CC(C)(OC(=O)NCC(=O)NC1=NN=NN1)C | InChI=1S/C8H14N6O3.C4H9N/c1-8(2,3)17-7(16)9-4-5(15)10-6-11-13-14-12-6;1-2-4-5-3-1/h4H2,1-3H3,(H,9,16)(H2,10,11,12,13,14,15);5H,1-4H2/p+1
